US09260420B2
Synthesis of cyclopentanecarboxylic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester
To a solution (20 ml) of 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one (962 mg, 2.066 mmol) synthesized in the same manner as in Example 1, cyclopentanecarboxylic acid (0.448 ml, 4.13 mmol), 2-chloro-1,3-dimethylimidazolium chloride (768 mg, 4.55 mmol) in methylene chloride was added triethylamine (1.267 ml, 9.09 mmol), and the mixture was stirred at room temperature for 1 hr. 2-Chloro-1,3-dimethylimidazolium chloride (768 mg, 4.55 mmol) was added, and the mixture was heated under reflux for 1 hr. After cooling to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. This was purified by moderate-pressure basic silica gel column (hexane:ethyl acetate=1:3) and concentrated under reduced pressure to give the title compound (yield 261 mg, 22.49%) as a colorless oil.

reactant | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one | 2.066 mmol, 20 ml, 962 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)CO)=O | C26H31N3O3S
reactant | cyclopentanecarboxylic acid | 4.13 mmol, 0.448 ml | C1(CCCC1)C(=O)O | C6H10O2
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 4.55 mmol, 768 mg | [Cl-].ClC1=[N+](C=CN1C)C
reactant | triethylamine | 9.09 mmol, 1.267 ml | C(C)N(CC)CC | C6H15N
reactant | 2-Chloro-1,3-dimethylimidazolium chloride | 4.55 mmol, 768 mg | [Cl-].ClC1=[N+](C=CN1C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | cyclopentanecarboxylic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester | yield 261 mg, 22.49% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COC(=O)C2CCCC2)=O | C32H39N3O4S
